US07605168B2
Preparation of 3-[5-(3,4-Dimethoxy-phenyl)-1H-pyrrolo[2,3-b]pyridin-3-ylethynyl]-benzoic acid 140
Into a microwave safe tube, 3-[5-(3,4-Dimethoxy-phenyl)-1H-pyrrolo[2,3-b]pyridin-3-ylethynyl]-benzoic acid methyl ester (0.049 g, 0.00012 mol) was dissolved in 5.00 M of Sodium hydroxide in Water (1.78 mL) and Methanol (7.1 mL, 0.18 mol). The reaction was warmed at 60 watts to 100° C. for 10 minutes. The resulting clear yellow solution was concentrated under reduced pressure. The resulting aqueous slurry was acidified to pH 5 with 1 M HCl (aq) and was extracted into ethyl acetate. The organic layer was washed with brine, dried over anhydrous sodium sulfate, then concentrated under reduced pressure. The resulting residue was recrystalized from ethyl acetate and methanol to yield the titled compound as a white solid. MS(ESI) [M+H+]+=399.20

reactant | 3-[5-(3,4-Dimethoxy-phenyl)-1H-pyrrolo[2,3-b]pyridin-3-ylethynyl]-benzoic acid methyl ester | 0.00012 mol, 0.049 g | COC(C1=CC(=CC=C1)C#CC1=CNC2=NC=C(C=C21)C2=CC(=C(C=C2)OC)OC)=O | C25H20N2O4
reactant | Methanol | 0.18 mol, 7.1 mL | CO | CH4O
solvent | Sodium hydroxide | 5.00 M | [OH-].[Na+]
solvent | Water | 1.78 mL | O | H2O
product | 3-[5-(3,4-Dimethoxy-phenyl)-1H-pyrrolo[2,3-b]pyridin-3-ylethynyl]-benzoic acid | COC=1C=C(C=CC1OC)C=1C=C2C(=NC1)NC=C2C#CC=2C=C(C(=O)O)C=CC2 | C24H18N2O4
